US07915411B2
2-(3-Amino-phenoxymethyl)-benzonitrile
3-Nitro-phenol was reacted with 2-bromomethyl-benzonitrile according to the procedure from Example 199A substituting 2-bromomethyl-benzonitrile for 1-bromomethyl-3-fluoro-benzene then reduced according to the procedure from Example 199B to provide the title compound.

reactant | 3-Nitro-phenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2-bromomethyl-benzonitrile | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | 1-bromomethyl-3-fluoro-benzene | BrCC1=CC(=CC=C1)F | C7H6BrF
product | 2-(3-Amino-phenoxymethyl)-benzonitrile | NC=1C=C(OCC2=C(C#N)C=CC=C2)C=CC1 | C14H12N2O
